* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\Dual LDO with Diodes.asc
V§LDO_1 N003 0 5
V§LDO_2 N002 0 5
R_Load 0 N001 10
D1 N003 N001 1N5817
D2 N002 N001 1N5817
.model D D
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 100 0
.backanno
.end
