* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\Dual LDO with Diodes.asc
V§LDO_1 N001 N002 5
V§LDO_2 N001 N003 5
R_Load 0 N001 10
D1 0 N002 1N5817
D2 0 N003 1N5817
.model D D
.lib C:\Users\kenny\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 100 0
.backanno
.end
